* === A2: 90nm bulk ===
.include 90nm_bulk.pm
.param VDDv = 1.2
.param Lmin = 90n
.param Wn = 4*Lmin
.param beta = 2.5
.param Cload = 2f

V1 vdd 0 {VDDv}
VIN in 0 PULSE(0 {VDDv} 200p 5p 5p 500p 1n)

MN out in 0 0 nmos L={Lmin} W={Wn}
MP out in vdd vdd pmos L={Lmin} W={beta*Wn}
C1 out 0 {Cload}

.tran 0 2n 0 0.5p

.meas tran tpHL TRIG V(in) VAL={VDDv/2} TD=100p RISE=1 TARG V(out) VAL={VDDv/2} FALL=1
.meas tran tpLH TRIG V(in) VAL={VDDv/2} TD=100p FALL=1 TARG V(out) VAL={VDDv/2} RISE=1
.meas tran tf TRIG V(out) VAL={0.9*VDDv} FALL=1 TARG V(out) VAL={0.1*VDDv} FALL=1
.meas tran tr TRIG V(out) VAL={0.1*VDDv} RISE=1 TARG V(out) VAL={0.9*VDDv} RISE=1
.meas tran tp PARAM (tpHL+tpLH)/2
.end
